US04959363
A mixture of 1.65 g 1-(4-fluorophenyl)-1,4-di-hydro4-oxo-7-(4-pyridinyl)-3-quinolinecarboxylic acid, 2.2 g of 1,1'-carbonyldiimidazole and 15 ml dimethylformamide (DMF) was heated at 150° C. for 1.5 hrs. The reaction mixture was poured into 50 ml concentrated ammonium hydroxide. The product was extracted with methylene dichloride and recovered therefrom to give 2.2 g 1-(4-fluorophenyl-1,4-dihydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxamide which was converted to its monomethanesulfonate salt hemihydrate, m.p. 301°-303° C. (decompn.). The free base, prepared from the salt with potassium carbonate solution, had m.p. 315°-317° C. when recrystallized from DMF.

reactant | 1-(4-fluorophenyl)-1,4-di-hydro4-oxo-7-(4-pyridinyl)-3-quinolinecarboxylic acid | 1.65 g | FC1=CC=C(C=C1)N1C=C(C(C2=CC=C(C=C12)C1=CC=NC=C1)=O)C(=O)O | C21H13FN2O3
reactant | 1,1'-carbonyldiimidazole | 2.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-fluorophenyl-1,4-dihydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxamide | FC1=CC=C(C=C1)N1C=C(C(C2=CC=C(C=C12)C1=CC=NC=C1)=O)C(=O)N | C21H14FN3O2
